Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who been having recurrent fevers and chills
for the last five days. Says highest temperature at home was 
101,
associated with vomiting. Says she thought it was her asthma
acting up, but she didn't feel better so she went to her PCP
yesterday, her WBC was 29 so she was sent to the ED after
starting Tamiflu, unclear if there a documented positive flu
test. Patient says had intermittent burning micturition, without
change in urine color or smell, no flanks pain. She has lower 
med
mild abdominal pain that started today which she attributes to
her menstrual cycle. Has mild cough productive of clear sputum
few days ago that improved with use of albuterol inhaler. 
No sore throat or ears pain, no diarrhea. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
asthma 
 
Social History:
___
Family History:
mother died of "kidney disease". 
 
Physical Exam:
ADMISSION EXAM
VITALS: ___ 1632 Temp: 98.9 PO BP: 113/72 HR: 95 RR: 18 O2
sat: 98% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation.  
GU: bilateral CVAT
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

EXAM ON DISCHARGE
VITALS: Afebrile, HDS
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation.  
GU: bilateral CVAT
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted

 
Pertinent Results:
___ 06:00AM BLOOD WBC-15.2* RBC-3.52* Hgb-10.2* Hct-27.9* 
MCV-79* MCH-29.0 MCHC-36.6 RDW-15.3 RDWSD-43.9 Plt ___
___ 04:00AM URINE Blood-MOD* Nitrite-NEG Protein-300* 
Glucose-150* Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
 
Brief Hospital Course:
___ w/ hx of asthma a/w severe sepsis secondary to E. coli UTI 
and bacteremia.  She was initially treated with IV ceftriaxone 
and transitioned to oral ciprofloxacin based on microbiology and 
sensitivity data.  Repeat blood culture from ___ shows no 
growth to date. She did well with this intervention and she is 
being discharged home with plan to follow-up with PCP ___ 
___ of discharge from the hospital.

Severe sepsis, resolved 
E. coli UTI
E. coli bacteremia
-Continue ciprofloxacin 500 mg twice daily, total of 10-day 
course of antibiotics

 
Medications on Admission:
Albuterol inhaler as needed shortness of breath/wheezing
 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis
E. coli UTI
E. coli bacteremia

 
Discharge Condition:
Discharge condition stable
Alert and oriented x3
Ambulatory

 
Discharge Instructions:
You were you were treated in the hospital for a urinary tract 
infection as well as a blood infection.  You were treated with 
IV antibiotics and you did well with this intervention.  Based 
on the culture data, your transition to an oral antibiotic 
regimen.  Please complete this oral antibiotic regimen as per 
your discharge instructions.  You should follow-up with your 
primary care physician ___ 1 week of discharge from the 
hospital.
 
Followup Instructions:
___